US07741363B2
A) 7-Methoxy-2-methyl-1H-indole
800 ml of a 0.5M solution of isopropenylmagnesium bromide in THF is cooled to −40° C. under a nitrogen atmosphere, a solution of 20.4 g of 2-methoxynitrobenzene in 125 ml of THF is then added dropwise and the mixture is left stirring for 1 hour while allowing the temperature to return to 0° C. The reaction mixture is poured into a saturated NH4Cl solution and extracted with ether, the organic phase is washed with a saturated NaCl solution and dried over MgSO4, and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, elution being carried out with cyclohexane and then with a cyclohexane/EtOAc mixture (90/10; v/v). 2.45 g of the expected compound are obtained in the form of an oil.

reactant | isopropenylmagnesium bromide | C(=C)(C)[Mg]Br
reactant | 2-methoxynitrobenzene | 20.4 g | COC1=C(C=CC=C1)[N+](=O)[O-] | C7H7NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 7-Methoxy-2-methyl-1H-indole | 2.45 g | COC=1C=CC=C2C=C(NC12)C | C10H11NO
